### PR TITLE
[Merged by Bors] - feat(MetricSpace/Closeds): set of nonempty compacts below a closed set is closed

### PR DESCRIPTION
**Pull request by b-mehta**
This is proved in analogy with `isClosed_subsets_of_isClosed`. That theorem is also renamed to `Closeds.isClosed_subsets_of_isClosed`, to make space for `NonemptyCompacts.isClosed_subsets_of_isClosed`.

We also rename `NonemptyCompacts.ToCloseds.isUniformEmbedding` to `isUniformEmbedding_toCloseds` to more closely match the naming convention.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 1]
```diff
@@ -235,6 +238,16 @@ theorem NonemptyCompacts.ToCloseds.isUniformEmbedding :
...
+lemma NonemptyCompacts.isClosed_subsets_of_isClosed (hs : IsClosed s) :
+    IsClosed {A : NonemptyCompacts α | (A : Set α) ⊆ s} := by
+  refine isClosed_of_closure_subset fun E hE x hx ↦ ?_
+  suffices x ∈ closure s by rwa [hs.closure_eq] at this
+  rw [mem_closure_iff] at hE ⊢
+  intro ε hε
+  obtain ⟨C, hC, hEC⟩ := hE ε hε
+  obtain ⟨y, hy, hxy⟩ := exists_edist_lt_of_hausdorffEdist_lt hx hEC
+  exact ⟨y, hC hy, hxy⟩
+
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Closeds.lean]: The statement right above tells you (in particular) that the forgetful map from nonempty compacts to closeds is continuous (this should be stated explicitly), so I think you can directly reuse the closed version.

Comment (b-mehta) [reply Mathlib/Topology/MetricSpace/Closeds.lean]: I've made this change, which suggested a few other cleanups to the file. Let me know what you think!

File: Mathlib/Topology/MetricSpace/Closeds.lean [hunk 2]
```diff
@@ -230,13 +235,29 @@ instance NonemptyCompacts.emetricSpace : EMetricSpace (NonemptyCompacts α) wher
...
-theorem NonemptyCompacts.ToCloseds.isUniformEmbedding :
+theorem isUniformEmbedding_toCloseds :
     IsUniformEmbedding (@NonemptyCompacts.toCloseds α _ _) :=
-  Isometry.isUniformEmbedding fun _ _ => rfl
+  isometry_toCloseds.isUniformEmbedding
+
+@[deprecated (since := "2025-08-20")]
+alias ToCloseds.isUniformEmbedding := isUniformEmbedding_toCloseds
+
+/-- `NonemptyCompacts.toCloseds` is a continuous (as it is an isometry) -/
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Closeds.lean]:
```suggestion
/-- `NonemptyCompacts.toCloseds` is continuous (as it is an isometry) -/
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

**Comment by b-mehta** [comment]
bors merge
